US05276150
Synthesis of (2E, 4E)-2,4-hexadiene-1-yl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-5-pyridylpyridine-3-carboxylate
268 mg (1 mmol) of 4-(3-nitrophenyl)-3-pyridyl-3-butene-2-one, 905 mg (5 mmol) of (2E,4E)-2,4-hexadiene-1-yl 3-aminocrotonate, 273 mg (2 mmol) of zinc chloride, and 500 mg of Molecular Shieves 4A were added to 1,4-dioxane. This reaction mixture was refluxed with application of heat in an inert atmoshpere for 5 hours. The reaction mixture was then cooled to room temperature and neutralized with a saturated aqueous solution of sodium hydrogencarbonate, followed b extraction with chloroform. The solvents contained in the extract were distilled off and the residue was chromatographed on a silica gel column, whereby the captioned compound was obtained. The yield was 182 mg (42.3%).

reactant | 4-(3-nitrophenyl)-3-pyridyl-3-butene-2-one | 1 mmol, 268 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(C=NC=C1)CC(C=C)=O | C15H12N2O3
reactant | (2E,4E)-2,4-hexadiene-1-yl 3-aminocrotonate | 5 mmol, 905 mg | N\C(=C/C(=O)OC\C=C\C=C\C)\C | C10H15NO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | zinc chloride | 2 mmol, 273 mg | [Cl-].[Zn+2].[Cl-]
product | (2E, 4E)-2,4-hexadiene-1-yl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-5-pyridylpyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OC\C=C\C=C\C)C1=CC(=CC=C1)[N+](=O)[O-])C1=NC=CC=C1)C | C25H25N3O4
